US04835175
Under ice cooling and agitation, 818 mg of tert-butylaminoacetonitrile hydrochloride and 1.2 g of 7-hydroxyindole-2-carboxylic acid n-butyl ester are added to a solution of 2.7 g of aluminum chloride in 20 ml of nitrobenzene. Then gaseous hydrogen chloride is introduced into the mixture at 0° to 3° C. for 7 hours, the reaction mixture is stirred for 16 hours at 0°-3° C., and then poured into ice water. The mixture is agitated for 10 minutes and then the precipitate is vacuum-filtered. The precipitate is recrystallized from isopropanol, thus obtaining 765 mg of 4-tert-butylaminoacetyl-7-hydroxyindole-2-carboxylic acid n-butyl ester hydrochloride, decomposition point 203°-208° C.

reactant | tert-butylaminoacetonitrile hydrochloride | 818 mg | Cl.C(C)(C)(C)NCC#N
reactant | 7-hydroxyindole-2-carboxylic acid n-butyl ester | 1.2 g | C(CCC)OC(=O)C=1NC2=C(C=CC=C2C1)O | C13H15NO3
reactant | aluminum chloride | 2.7 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrogen chloride | Cl | ClH
reactant | nitrobenzene | 20 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 4-tert-butylaminoacetyl-7-hydroxyindole-2-carboxylic acid n-butyl ester hydrochloride | 765 mg | Cl.C(CCC)OC(=O)C=1NC2=C(C=CC(=C2C1)C(CNC(C)(C)C)=O)O | InChI=1S/C19H26N2O4.ClH/c1-5-6-9-25-18(24)14-10-13-12(7-8-15(22)17(13)21-14)16(23)11-20-19(2,3)4;/h7-8,10,20-22H,5-6,9,11H2,1-4H3;1H
